US07700641B2
Synthesis of 1′-(diphenylmethyl)-6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
To a solution of 1-(diphenylmethyl)-3-(hydroxymethyl)-3-[2-hydroxy-4-(trifluoromethoxy)phenyl]-1,3-dihydro-2H-indol-2-one (17.3 mmol) in anhydrous THF (200 mL) was added triphenylphosphine (6.34 g, 24.2 mmol) followed by diethyl azodicarboxylate (4.39 mL, 24.2 mmol) at 0° C. The reaction mixture was stirred at ambient temperature for 16 h, quenched with saturated ammonium chloride (40.0 mL). The aqueous mixture was extracted with ethyl acetate (3×150 mL). The combined organic layers was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo. The residue was subjected to column chromatography (ethyl acetate/hexane, 1/4) to give the title compound (6.00 g, 71%): 1H NMR (300 MHz, CDCl3) δ 7.45-6.51 (m, 18H), 5.08 (d, 1H), 4.81 (d, 1H); MS (ES+) m/z 488 (M+1).

reactant | 1-(diphenylmethyl)-3-(hydroxymethyl)-3-[2-hydroxy-4-(trifluoromethoxy)phenyl]-1,3-dihydro-2H-indol-2-one | 17.3 mmol | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)(C1=C(C=C(C=C1)OC(F)(F)F)O)CO)=O)C1=CC=CC=C1 | C29H22F3NO4
reactant | triphenylphosphine | 24.2 mmol, 6.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 24.2 mmol, 4.39 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1′-(diphenylmethyl)-6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 6.00 g, 71% | C1(=CC=CC=C1)C(N1C(C2(C3=CC=CC=C13)COC1=C2C=CC(=C1)OC(F)(F)F)=O)C1=CC=CC=C1 | C29H20F3NO3
